* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 15.7
R1 n1 a 3
R2 a nc 5
V2 nc nd DC 26.5
R3 nd ne 1
V3 b ne DC 12.5
V4 nf b DC 11.1
R4 nf 0 4
.op
.print dc V(a) V(b)
.end